US08420823B2
N-(4-isopropylphenyl)-2-methoxy-5-(piperidin-1-ylsulfonyl)benzamide
The entitled compound was produced according to the method of Example 92 but using 2-methoxy-5-(piperidin-1-ylsulfonyl)benzoic acid and 4-isopropylaniline as the starting materials.

reactant | 2-methoxy-5-(piperidin-1-ylsulfonyl)benzoic acid | COC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N1CCCCC1 | C13H17NO5S
reactant | 4-isopropylaniline | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
product | N-(4-isopropylphenyl)-2-methoxy-5-(piperidin-1-ylsulfonyl)benzamide | C(C)(C)C1=CC=C(C=C1)NC(C1=C(C=CC(=C1)S(=O)(=O)N1CCCCC1)OC)=O | C22H28N2O4S
